datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCCN(C(=O)c1cc([N+](=O)[O-])ccc1[O:21][H:20])c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.c1ccc(-c2ccc3ccc4cccnc4c3[n:10]2)cc1>>CCCCN(C(=O)c1cc([N+](=O)[O-])ccc1[O-:21])c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.c1ccc(-c2ccc3ccc4cccnc4c3[n+:10]2[H:20])cc1 10=20;20,21=21",
"CCSC(C)[O-:10].COc1ccccc1-c1ccccc1[O:21][H:20]>>CCSC(C)[O:10][H:20].COc1ccccc1-c1ccccc1[O-:21] 10=20;20,21=21",
"CO[C@H]1CC=C2CC[N:10]3CCC(CO)=C(CCO)[C@]23C1.C[N+:21](C)(c1ccc(N2CCOCC2)cc1)[H:20]>>CO[C@H]1CC=C2CC[N+:10]3([H:20])CCC(CO)=C(CCO)[C@]23C1.C[N:21](C)c1ccc(N2CCOCC2)cc1 10=20;20,21=21",
"C[N:10](C)CCC(C#N)(c1ccccc1)c1ccccc1.O=C([O-])C[NH+:21](CCc1nnn[n-]1)[H:20]>>C[N+:10](C)(CCC(C#N)(c1ccccc1)c1ccccc1)[H:20].O=C([O-])C[NH:21]CCc1nnn[n-]1 10=20;20,21=21",
"Clc1c[nH][n+:21]([H:20])c1.c1cc([O-:10])c2[nH]ncc2c1>>Clc1c[nH][n:21]c1.c1cc([O:10][H:20])c2[nH]ncc2c1 10=20;20,21=21",
"CNCC[NH:10]CCN.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CNCC[NH+:10](CCN)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"O=C(C1(O)CCCC1)[O-:10].Oc1c(Cl)cc(Cl)c2ccc[n+:21]([H:20])c12>>O=C(C1(O)CCCC1)[O:10][H:20].Oc1c(Cl)cc(Cl)c2ccc[n:21]c12 10=20;20,21=21",
"Cc1cc2c(cc1[NH2:10])Sc1cc([NH+](C)C)ccc1N2.S=C(c1ccc(Cl)cc1)[N:21](c1ccc(Cl)cc1)[H:20]>>Cc1cc2c(cc1[NH2+:10][H:20])Sc1cc([NH+](C)C)ccc1N2.S=C(c1ccc(Cl)cc1)[N-:21]c1ccc(Cl)cc1 10=20;20,21=21",
"CCOC(=O)N1CC[N+:21](C)([H:20])CC1.OC(C[NH+]1CCOCC1)C[N:10]1CCOCC1>>CCOC(=O)N1CC[N:21](C)CC1.OC(C[NH+]1CCOCC1)C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"C[C@H]1C[NH:10][C@@H](C)CN1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@H]1C[NH+:10]([H:20])[C@@H](C)CN1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CO[C@H]1C[C@H]1C(=O)[O:21][H:20].N[N-:10]C(=O)c1cccnc1>>CO[C@H]1C[C@H]1C(=O)[O-:21].N[N:10](C(=O)c1cccnc1)[H:20] 10=20;20,21=21",
"CCC[NH+](CCC)CCCNC(=O)/C=N/[O-:10].Nc1cccc[n+]1[O:21][H:20]>>CCC[NH+](CCC)CCCNC(=O)/C=N/[O:10][H:20].Nc1cccc[n+]1[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC(=O)[O:21][H:20].CNC(N(C)C)=[NH:10]>>CCCCCCCCCCCCCCCCCC(=O)[O-:21].CNC(N(C)C)=[NH+:10][H:20] 10=20;20,21=21",
"CCCCSCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCCCSCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1ccc(S(c2ccccc2)=[NH:10])cc1.Nc1cc[nH+]c([S-])[n+:21]1[H:20]>>Cc1ccc(S(c2ccccc2)=[NH+:10][H:20])cc1.Nc1cc[nH+]c([S-])[n:21]1 10=20;20,21=21",
"C[N:10](C)c1cccc(C#N)c1.Fc1ccc2[nH]c[n+:21]([H:20])c2c1>>C[N+:10](C)(c1cccc(C#N)c1)[H:20].Fc1ccc2[nH]c[n:21]c2c1 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2n[n+:21]([H:20])ccc2[nH]1.O=P1([O-:10])CCC1>>COc1cc(S(C)=O)ccc1-c1nc2n[n:21]ccc2[nH]1.O=P1([O:10][H:20])CCC1 10=20;20,21=21",
"C(C[NH+]1CCOCC1)C[N:10]1CCOCC1.O=Cc1ccccc1[O:21][H:20]>>C(C[NH+]1CCOCC1)C[N+:10]1([H:20])CCOCC1.O=Cc1ccccc1[O-:21] 10=20;20,21=21",
"CCN[N+:21](C)(CC)[H:20].c1ccc(C(c2ccccn2)[O-:10])cc1>>CCN[N:21](C)CC.c1ccc(C(c2ccccn2)[O:10][H:20])cc1 10=20;20,21=21",
"C[N:10](C)c1ccc2ccccc2c1.Cc1c(Br)cc([NH2+:21][H:20])cc1Br>>C[N+:10](C)(c1ccc2ccccc2c1)[H:20].Cc1c(Br)cc([NH2:21])cc1Br 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@@H]2O)[NH+:21]([H:20])CC[C@]314.O=C1O[C@@H]([C@@H](O)CO)C([O-:10])=C1O>>COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@@H]2O)[NH:21]CC[C@]314.O=C1O[C@@H]([C@@H](O)CO)C([O:10][H:20])=C1O 10=20;20,21=21",
"CCCSC(=O)CCCc1c[nH]c[n+:21]1[H:20].Nc1[nH]c2c(N)[n:10]c(N)nc2[nH+]1>>CCCSC(=O)CCCc1c[nH]c[n:21]1.Nc1[nH]c2c(N)[n+:10]([H:20])c(N)nc2[nH+]1 10=20;20,21=21",
"CO[O-:10].Oc1ccc2ncc[n+:21]([H:20])c2c1>>CO[O:10][H:20].Oc1ccc2ncc[n:21]c2c1 10=20;20,21=21",
"COc1ccc(F)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].Clc1ccc([O-:10])cc1Cl>>COc1ccc(F)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.Clc1ccc([O:10][H:20])cc1Cl 10=20;20,21=21",
"CN(C)C(=S)OCC(=O)[O:21][H:20].C[n+]1ccc(N[NH2:10])c2ccccc21>>CN(C)C(=S)OCC(=O)[O-:21].C[n+]1ccc(N[NH2+:10][H:20])c2ccccc21 10=20;20,21=21",
"NC(=O)Cc1cccc[n+:21]1[H:20].O[C@H]1CCCC[C@@H]1[NH2:10]>>NC(=O)Cc1cccc[n:21]1.O[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc2c(c1)c(N1CCOCC1)c1c([n:10]2)CCC1.Nc1ccc([N+](=O)[O-])c(B(O)[O:21][H:20])c1>>Cc1ccc2c(c1)c(N1CCOCC1)c1c([n+:10]2[H:20])CCC1.Nc1ccc([N+](=O)[O-])c(B(O)[O-:21])c1 10=20;20,21=21",
"O=C1C=CC=CC=C1[O:21][H:20].Oc1ccc(/C=[NH+]/c2ccc(-c3ccc([NH2:10])cc3)cc2)cc1>>O=C1C=CC=CC=C1[O-:21].Oc1ccc(/C=[NH+]/c2ccc(-c3ccc([NH2+:10][H:20])cc3)cc2)cc1 10=20;20,21=21",
"CC(C)[N:10]1CCCCC1.COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n+:21]1[H:20]>>CC(C)[N+:10]1([H:20])CCCCC1.COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n:21]1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].c1ccc(C[S-:10])cc1>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].c1ccc(C[S:10][H:20])cc1 10=20;20,21=21",
"CN[N:10](C)C.Cc1cn2nc(-c3ccccc3)ccc2[n+:21]1[H:20]>>CN[N+:10](C)(C)[H:20].Cc1cn2nc(-c3ccccc3)ccc2[n:21]1 10=20;20,21=21",
